US08877975B2
5.2.1. Synthesis of 2-Naphthylacetonitrile
To a stirred solution of sodium cyanide (10.5 g, 0.214 mol) in H2O (20 mL) was added a solution of 2-(bromomethyl)naphthalene (40.0 g, 0.181 mol) in EtOH (170 mL). The resulting mixture was heated at reflux for 3 h, then spin-evaporated in vacuo. The residue was partitioned between H2O (175 mL) and CH2Cl2 (200 mL). The aqueous layer was further extracted with CH2Cl2 (3×200 mL). The combined organic layers were dried over MgSO4 (5 g) and spin-evaporated in vacuo to a solid. The solid was dissolved in refluxing EtOH (100 mL). The clarified solution was stored at 3° C. for 16 h. Solids were collected by filtration and dried to constant weight in vacuo to give 24.8 g (81.9%) of product suitable for further transformation. A total of 257.2 g of material was prepared in this fashion.

reactant | sodium cyanide | 0.214 mol, 10.5 g | [C-]#N.[Na+]
reactant | 2-(bromomethyl)naphthalene | 0.181 mol, 40.0 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | H2O | 20 mL | O | H2O
solvent | EtOH | 170 mL | CCO | C2H6O
product | 2-Naphthylacetonitrile | 24.8 g, 81.9% | C1=C(C=CC2=CC=CC=C12)CC#N | C12H9N
